US09216999B2
[trans-2-(4-Fluorophenyl)cyclopropyl]methanamine
2-{[trans-2-(4-Fluorophenyl)cyclopropyl]methyl}isoindoline-1,3-dione (974 mg, 3.30 mmol) in ethanol (50 mL) was stirred with hydrazine monohydrate (825 mg, 16.5 mmol) at 100° C. for 30 minutes. The reaction mixture was concentrated to give the title compound as a colorless oil (360 mg, yield 66%).

reactant | 2-{[trans-2-(4-Fluorophenyl)cyclopropyl]methyl}isoindoline-1,3-dione | 3.30 mmol, 974 mg | FC1=CC=C(C=C1)[C@H]1[C@@H](C1)CN1C(C2=CC=CC=C2C1=O)=O | C18H14FNO2
reactant | hydrazine monohydrate | 16.5 mmol, 825 mg | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | [trans-2-(4-Fluorophenyl)cyclopropyl]methanamine | 360 mg, yield 66% | FC1=CC=C(C=C1)[C@H]1[C@@H](C1)CN | C10H12FN
